US06762180B1
(1) 4-[N-(3-dimethylamino-propyl)-N-acetyl-amino]-nitrobenzene
Prepared from 4-(3-dimethylamino-propylamino)-nitrobenzene (according to Gabbay et al., J. Am. Chem. Soc. 91, 5136 (1969) and acetyl chloride

reactant | 4-(3-dimethylamino-propylamino)-nitrobenzene | CN(CCCNC1=CC=C(C=C1)[N+](=O)[O-])C | C11H17N3O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-[N-(3-dimethylamino-propyl)-N-acetyl-amino]-nitrobenzene | CN(CCCN(C(C)=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H19N3O3
